US05962457
3-Aminopyrazine-2-carboxylic acid o-toluamide
A mixture of 3-aminopyrazine carboxylic acid (5.0 g, 35.94 mmol), methylene chloride (110 mL), 4-dimethylaminopyridine (10.98 g, 89.85 mmol), o-toluidine (4.22 mL, 39.53 mmol), and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (8.27 g, 43.13 mmol) was stirred overnight at ambient temperature. The solvent was removed and the residue was diluted with ethyl acetate. This organic phase was extracted with 1 N lithium chloride (LiCl), water, and brine, dried over calcium sulfate and concentrated. The residue was flash chromatographed on silica gel (2.75×4 inches) with elution proceeding as follows: hexane (300 mL), nil; 20% ethyl acetate/hexane (500 mL), unweighed recovered o-toluidine; 20% ethyl acetate/hexane (1000 mL) and 30% ethyl acetate/hexane (2000 mL), 4.79 g (58%) of 3-aminopyrazine-2-carboxylic acid o-toluamide as a yellow crystalline solid.

reactant | 3-aminopyrazine carboxylic acid | 35.94 mmol, 5.0 g | NC=1C(=NC=CN1)C(=O)O | C5H5N3O2
reactant | o-toluidine | 39.53 mmol, 4.22 mL | NC=1C(=CC=CC1)C | C7H9N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 43.13 mmol, 8.27 g | Cl.CN(CCCN=C=NCC)C
catalyst | 4-dimethylaminopyridine | 89.85 mmol, 10.98 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 110 mL | C(Cl)Cl | CH2Cl2
product | 3-Aminopyrazine-2-carboxylic acid o-toluamide | C=1(C(=CC=CC1)C(=O)N)C.NC=1C(=NC=CN1)C(=O)O | InChI=1S/C8H9NO.C5H5N3O2/c1-6-4-2-3-5-7(6)8(9)10;6-4-3(5(9)10)7-1-2-8-4/h2-5H,1H3,(H2,9,10);1-2H,(H2,6,8)(H,9,10)
